US06759554B2
N-(3,5-Dimethylphenyl)-1,2-trans-cyclohexanediamine
An oven-dried resealable Schlenk tube was charged with CuI (40 mg, 0.210 mmol), K2CO3 (850 mg, 6.15 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (240 μL, 2.00 mmol) and 5-iodo-m-xylene (900 μL, 6.24 mmol) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 100° C. for 23 h. The resulting purple-blue suspension was cooled to room temperature and filtered through a 2×1 cm pad of Celite eluting with 50 mL of dichloromethane. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; dichloromethane saturated with aq NH3-methanol 40:1; 15 mL fractions). Fractions 9-13 provided 178 mg (41% yield) of the product as a tan solid. 1H NMR (400 MHz, CDCl3): δ 6.39 (s, 1H), 6.34 (s, 2H), 3.36 (br s, 1H), 3.03−2.92 (m, 1H), 2.56−2.46 (m, 1H), 2.25 (s, 6H), 2.20−2.10 (m, 1H), 2.08−1.95 (m, 1H), 1.83−1.70 (m, 2H), 1.55−1.20 (m, 5H), 1.10−1.00 (m, 1H).

reactant | K2CO3 | 6.15 mmol, 850 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trans-1,2-Cyclohexanediamine | 2.00 mmol, 240 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | 5-iodo-m-xylene | 6.24 mmol, 900 μL | IC=1C=C(C=C(C1)C)C | C8H9I
catalyst | CuI | 0.210 mmol, 40 mg | [Cu]I
product | N-(3,5-Dimethylphenyl)-1,2-trans-cyclohexanediamine | 178 mg, 41% yield | CC=1C=C(C=C(C1)C)N[C@H]1[C@@H](CCCC1)N | C14H22N2
